US08058033B2
pNPG Glucoamylase Activity Assay for 96-well Microtiter Plates:
The reagent solutions were: NaAc buffer: 200 mM sodium acetate buffer pH 4.5; Substrate: 50 mM p-nitrophenyl-α-D-glucopyranoside (Sigma N-1377) in NaAc buffer (0.3 g/20 ml) and stop solution: 800 mM glycine-NaOH buffer pH 10. 30 μl filtered supernatant was placed in a fresh 96-well flat bottom MTP. To each well 50 μl NaAc buffer and 120 μl substrate was added and incubated for 30 minutes at 50° C. (Thermolab systems iEMS Incubator/shaker HT). The reaction was terminated by adding 100 μl stop solution. The absorbance was measured at 405 nm in a MTP-reader (Molecular Devices Spectramax 384 plus) and the activity was calculated using a molar extinction coefficient of 0.011 μM/cm.

reactant | sodium acetate | 200 mM, pH 4.5 | C(C)(=O)[O-].[Na+]
reactant | p-nitrophenyl-α-D-glucopyranoside | 50 mM | C1=CC(=CC=C1[N+](=O)[O-])OC2C(C(C(C(O2)CO)O)O)O | C12H15NO8
reactant | glycine NaOH | 800 mM, pH 10 | NCC(=O)O.[OH-].[Na+]
product | pNPG | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C12H13NO9
